US05211878
0.1 mol of chlorotriisopropyl orthotitanate in 20 ml of tetrahydrofuran is added at 5° C. to a mixture of 1-bromomagnesium-4-propylbenzene (prepared from 0.1 mol of 4-propyl-bromobenzene and 0.1 mol of magnesium) and 90 ml of tetrahydrofuran and the mixture is stirred at 5° to 20° C. for 30 minutes. A mixture of 1.3 g of bis-(triphenylphosphine)-nickel(II) chloride and 0.1 mol of 4-bromo-2,3-difluorobenzonitrile (prepared from 1-trimethylsilyl-2,3-difluorobenzene by conversion into the nitrile analogously to Example 1a) 1c) and subsequent bromination with bromine with removal by distillation of the resulting trimethylsilyl bromide) is added to this mixture. Stirring for 24 hours at room temperature and customary working up gives 4-propyl-2',3'-difluoro-4'-cyanobiphenyl.

reactant | 4-bromo-2,3-difluorobenzonitrile | 0.1 mol | BrC1=C(C(=C(C#N)C=C1)F)F | C7H2BrF2N
reactant | 1-trimethylsilyl-2,3-difluorobenzene | C[Si](C1=C(C(=CC=C1)F)F)(C)C | C9H12F2Si
reactant | bromine | BrBr | Br2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
catalyst | bis-(triphenylphosphine)-nickel(II) chloride | 1.3 g | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-propyl-2',3'-difluoro-4'-cyanobiphenyl | C(CC)C1=CC=C(C=C1)C1=C(C(=C(C=C1)C#N)F)F | C16H13F2N
